US04005099
A solution of 7-chloro-1,3-dihydro-5-(2-pyridyl)-1,4-benzodiazepin-2-thione in butanol solution is refluxed with excess α-aminopropionaldehyde dimethyl acetal. After cooling excess butanol is removed by vacuum distillation and the residue is crystallized from ethyl acetate-hexane to give 2-[[7-chloro-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl]amino]propionaldehyde dimethyl acetal.

reactant | 7-chloro-1,3-dihydro-5-(2-pyridyl)-1,4-benzodiazepin-2-thione | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=NC=CC=C2)C1 | C14H10ClN3S
reactant | α-aminopropionaldehyde dimethyl acetal | COC(C(C)N)OC | C5H13NO2
solvent | butanol | C(CCC)O | C4H10O
product | 2-[[7-chloro-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl]amino]propionaldehyde dimethyl acetal | COC(C(C)NC1=NC2=C(C(=NC1)C1=NC=CC=C1)C=C(C=C2)Cl)OC | C19H21ClN4O2
